US04064106
11-Methyldodecyl bromide was reacted with the ammonium salt of dicyclohexylphosphinodithioic acid to obtain isotridecyl dicyclohexylphosphinodithioate, a viscous colorless liquid, which on testing lasted 750 hours longer than the control. The total number of hours required to reach failure was 2.6 times that of the control.

reactant | 11-Methyldodecyl bromide | CC(CCCCCCCCCCBr)C | C13H27Br
reactant | dicyclohexylphosphinodithioic acid | C1(CCCCC1)P(=S)(S)C1CCCCC1 | C12H23PS2
product | isotridecyl dicyclohexylphosphinodithioate | C1(CCCCC1)P(=S)(SCCCCCCCCCCC(C)C)C1CCCCC1 | C25H49PS2
